US05578620
3-(5-Phenoxymethyl-2-oxooxazolidin-3-yl)propanol
A procedure similar to that described in Preparation 5(a) was repeated, except that 1.64 g of ethyl 3-(5-phenoxymethyl-2-oxooxazolidin-3-yl)propionate (prepared as described in Preparation 113), 15 ml of anhydrous tetrahydrofuran, 244 mg of lithium borohydride and 179 mg of anhydrous methanol were used, to give 1.41 g of the title compound having an Rf value of 0.28 (on silica gel thin layer chromatography, using ethyl acetate as the developing solvent).

reactant | ethyl 3-(5-phenoxymethyl-2-oxooxazolidin-3-yl)propionate | 1.64 g | O(C1=CC=CC=C1)CC1CN(C(O1)=O)CCC(=O)OCC | C15H19NO5
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | lithium borohydride | 244 mg | [BH4-].[Li+]
solvent | methanol | 179 mg | CO | CH4O
product | 3-(5-Phenoxymethyl-2-oxooxazolidin-3-yl)propanol | 1.41 g | O(C1=CC=CC=C1)CC1CN(C(O1)=O)CCCO | C13H17NO4
